US08049016B2
Synthesis of 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(oxazol-2-ylmethyl)thiazole-5-carboxamide
Following the procedure as describe in Example 16, making variations as required to replace 3-(aminomethyl)pyridine with (oxazol-2-yl)methylamine to react with 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colourless solid in 69% yield: mp 156-158° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.55 (t, J=5.7 Hz, 1H), 8.09 (s, 1H), 7.12 (s, 1H), 4.44 (d, J=5.7 Hz, 2H), 3.99 (t, J=8.4 Hz, 2H), 3.64-3.47 (m, 3H), 3.19-3.12 (m, 1H), 2.44 (s, 3H), 2.05-1.89 (m, 1H), 1.68-1.55 (m, 1H), 1.37-1.36 (m, 1H); 13C NMR (75 MHz, DMSO-d6) δ 163.8, 163.1, 159.5, 156.8, 153.4, 141.5, 128.9, 119.2, 43.9, 43.6, 42.6, 42.6, 38.4, 21.8 5 (t, 1JC-F=42 Hz), 19.0, 16.4 5 (t, 1JC-F=42 Hz); MS (ES+) m/z 399.0 (M+1).

reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
reactant | (oxazol-2-yl)methylamine | O1C(=NC=C1)CN | C4H6N2O
reactant | 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O)F | C12H13F2N3O3S
product | 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methyl-N-(oxazol-2-ylmethyl)thiazole-5-carboxamide | 69% yield | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1OC=CN1)=O)F | C16H17F2N5O3S
